*******************************************************************************
*****************************************************************
* NXP BUK7Y13_40B
*
* Polarity N-Channel
* Ratings 40V/1.30E-02OHMS/25A
*
* Date Created Wed Mar 17 03:34:39 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y13_40B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 800000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00694655769572184 TC=0.0089916437062538,-1.76115717139726e-05
RBD 9 4 0.00182549911509905 TC=0.0089916437062538,-1.76115717139726e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000000
CGS 2 6 1.05647058823529e-09
RG 1 2 1.53663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1062
+ -10	1061
+ -5	1110
+ -4	1073
+ -3	987
+ -2	880
+ -1	727
+ -0.5	648
+ -0.2	600
+ -0.1	583
+ 0	568
+ 0.1	544
+ 0.2	521
+ 0.5	465
+ 1	375
+ 2	287
+ 5	210
+ 10	175
+ 12	165
+ 14	157
+ 20	139
+ 25	130
+ 32	120



.MODEL MINT NMOS(Vto=3.51804615657747 Kp=4.9727e+01 Nfs=700000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44.80 Ibv=2.50E-04 Rs=1E-6 Is=6.40720050729265e-13
+ N=1 M=0.56 VJ=0.99 Fc=0.5 Cjo=9.02e-10 Tt=2.05e-08)

.ENDS

*******************************************************************************
